US07750003B2
Methyl 2-[4-(cyclopropylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine-4-carboxylate
Methyl 6-[(3S)-3-methylmorpholin-4-yl]-2-[4-(phenoxycarbonylamino)phenyl]pyrimidine-4-carboxylate (547 mg) was dissolved in DMF (8 mL) and triethylamine (0.59 mL) followed by cyclopropylamine (0.491 mL) added. The reaction was stirred at 40° C. for 2 hours then the mixture was vacuumed to dryness and partitioned between DCM (50 mL) and water (50 mL). The organic layer was dried over magnesium sulphate and vacuumed to dryness then chromatographed on silica, eluting with 5% methanol in DCM, to give the desired material (351 mg) as a white solid.

reactant | Methyl 6-[(3S)-3-methylmorpholin-4-yl]-2-[4-(phenoxycarbonylamino)phenyl]pyrimidine-4-carboxylate | 547 mg | C[C@@H]1N(CCOC1)C1=CC(=NC(=N1)C1=CC=C(C=C1)NC(=O)OC1=CC=CC=C1)C(=O)OC | C24H24N4O5
reactant | triethylamine | 0.59 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 0.491 mL | C1(CC1)N | C3H7N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Methyl 2-[4-(cyclopropylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine-4-carboxylate | 351 mg | C1(CC1)NC(=O)NC1=CC=C(C=C1)C1=NC(=CC(=N1)C(=O)OC)N1[C@H](COCC1)C | C21H25N5O4
